US05319100
(2) 3-(3,5-di-Isopropyl-4-hydroxybenzylidene)pyrrolidin-2-one
To a solution of 810 mg (2.57 mmol) of the thus obtained 1-acetyl-3-(3,5-di-isopropyl-4-hydroxybenzylidene)pyrrolidin-2-one in 5 ml of methanol and 10 ml of THF was added 2 ml of 1N aq. sodium hydroxide at room temperature and the mixture was stirred for 3 hours. The reaction mixture was poured into ice-water containing ethyl acecate and 3 ml of 1N hydrochloric acid. The ethyl acetate layer was washed with water and saturated brine, dried over magnesium sulfate and evaporated under reduced pressure to give a residue, which was crystallized from a ether/n-hexane mixture to give 800 mg of the objective compound as yellowish white crystal in 100% yield.

reactant | 1-acetyl-3-(3,5-di-isopropyl-4-hydroxybenzylidene)pyrrolidin-2-one | C(C)(=O)N1C(C(CC1)=CC1=CC(=C(C(=C1)C(C)C)O)C(C)C)=O | C19H25NO3
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(3,5-di-Isopropyl-4-hydroxybenzylidene)pyrrolidin-2-one | 800 mg, 100% yield | C(C)(C)C=1C=C(C=C2C(NCC2)=O)C=C(C1O)C(C)C | C17H23NO2
